M1 (VOUT1 net18 net16 VSS) nmos4
M0 (net18 net14 VSS VSS) nmos4
R4 (net16 VSS) resistor
R1 (VIN1 net14) resistor
R2 (net14 net16) resistor
R3 (VDD VOUT1) resistor
R0 (VDD net18) resistor